US05104867
2-(1) (2S, 4S)-2-Carbamoyl-4-(4-methoxybenzylthio)-1-(2-fluoroethyl)pyrrolidine
0.4 ml of 1-bromo-2-fluoroethane, 3.83 g of sodium iodide and 0.38 g of sodium bicarbonate were added to a solution of 1.2 g of (2S, 4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine dissolved in 12 ml of dry dimethylformamide, whilst ice-cooling, and the mixture was stirred at room temperature for 20 minutes and then at 40° C. for 20 hours. At the end of this time, the reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was subjected to column chromatography through silica gel (Katayama Chemicals Industries Co., silica gel 60K070). 838 mg of the title compound, melting at 122°-123° C., were obtained as a powder from those fractions eluted with ethyl acetate.

reactant | 1-bromo-2-fluoroethane | 0.4 ml | BrCCF | C2H4BrF
reactant | sodium iodide | 3.83 g | [I-].[Na+]
reactant | sodium bicarbonate | 0.38 g | C([O-])(O)=O.[Na+]
reactant | (2S, 4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine | 1.2 g | C(N)(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC | C13H18N2O2S
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | (2S, 4S)-2-Carbamoyl-4-(4-methoxybenzylthio)-1-(2-fluoroethyl)pyrrolidine | 838 mg | C(N)(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)CCF | C15H21FN2O2S
